US09023847B2
A suspension of 6-chloro-7-deazapurine (100.00 mg; 0.65 mmol), methyl 3-amino-2-furoate (138 mg; 0.98 mmol) and concentrated hydrochloric acid (55 μL; 0.65 mmol) in tert-butanol (2 mL) was microwaved at 75° C. for 3 h. The reaction mixture was diluted with methanol (2 mL) and purified by chromatography on a SP1 Biotage system, using dichloromethane and methanol as eluents to afford 3-(7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)-furan-2-carboxylic acid methyl ester (30 mg, 18%) as a white solid. (HPLC: 99%, RT: 5.43 min). 1H NMR (DMSO-d6) 12.03 (br s, 1H), 8.99 (br s, 1H), 8.40 (s, 1H), 7.90 (d, J=2.2 Hz, 1H), 7.71 (d, J=1.8 Hz, 1H), 7.38 (dd, J=3.3, 2.2 Hz, 1H), 6.60 (dd, J=3.3, 1.8 Hz, 1H), 3.90 (s, 3H); MS (m/z) 259 [M+H]+.

reactant | 6-chloro-7-deazapurine | 0.65 mmol, 100.00 mg | C1=CNC2=C1C(=NC=N2)Cl | C6H4ClN3
reactant | methyl 3-amino-2-furoate | 0.98 mmol, 138 mg | NC1=C(OC=C1)C(=O)OC | C6H7NO3
reactant | hydrochloric acid | 0.65 mmol, 55 μL | Cl | ClH
solvent | tert-butanol | 2 mL | C(C)(C)(C)O | C4H10O
solvent | methanol | 2 mL | CO | CH4O
product | 3-(7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)-furan-2-carboxylic acid methyl ester | 30 mg, 18% | COC(=O)C=1OC=CC1NC=1C2=C(N=CN1)NC=C2 | C12H10N4O3
